US06653481B2
3-Methyl 5-ethyl 4-(2-chlorophenyl)-2-{[2-(1.3-dioxo-1.3-dihydro-2H-isoindol-2-yl) ethoxy]methyl}-6-methyl-1.4-dihydro-3.5-pyridine dicarboxylate (Compound 2d).
87 g of methyl 2-(o-chlorobenzylidene)-4-(2-phthalimidoethoxy)acetoacetate was dissolved in 102 ml of 2-propanol at 80° C. 33.1 g of ethyl-3-aminocrotonate was added and the mixture was heated at the same temperature for 16 hours. The mixture was evaporated to dryness. The residue was dissolved in 153 ml of glacial acetic acid at 80° C. The mixture was cooled to 15° C. and stirred at the same temperature for 20 hours. The solid was filtered off and washed with 78 ml of glacial acetic acid. The solid was suspended in 150 ml of methanol and agitated at 60° C. for 30 minutes. The solid was cooled to 20° C. and filtered off, washed with 30 ml of methanol and dried. The product was recrystallized from ethyl acetate.

reactant | methyl 2-(o-chlorobenzylidene)-4-(2-phthalimidoethoxy)acetoacetate | 87 g | ClC1=C(C=C(C(=O)OC)C(=O)COCCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C22H18ClNO6
reactant | ethyl-3-aminocrotonate | 33.1 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | 2-propanol | 102 ml | CC(C)O | C3H8O
product | 3-Methyl 5-ethyl 4-(2-chlorophenyl)-2-{[2-(1.3-dioxo-1.3-dihydro-2H-isoindol-2-yl) ethoxy]methyl}-6-methyl-1.4-dihydro-3.5-pyridine dicarboxylate | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OCC)C)COCCN1C(C2=CC=CC=C2C1=O)=O)C(=O)OC | C28H27ClN2O7
